US08247594B2
3-Cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-5-nitro-benzamide (12.0 g, 25.9 mmol) (Example I5) was dissolved in isopropanol (200 ml) and tin chloride (14.73 g, 77.7 mmol) was added. The mixture was cooled to 0° C. and aqueous hydrochloric acid (concentrated) (30 ml) was added slowly. The reaction mixture was stirred at 80° C. for 0.5 hours. ⅓ of the total volume of isopropanol was evaporated. Water (100 ml) was added to the concentrated mixture and aqueous sodium hydroxide (4N) was added to adjust the pH to 7-8. The aqueous phase was extracted three times with ethyl acetate (3×200 ml). The combined organic extracts were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 4:1 to 0:1) to give 5-amino-3-cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide (10.6 g, 94.4% yield). 1H-NMR (400 MHz, CDCl3): 7.47 (s, 1H), 7.44 (s, 2H), 7.36 (s, 2H), 7.07 (s, 1H), 4.11 (bs, 2H), 2.32 (s, 6H) ppm.

reactant | 3-Cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-5-nitro-benzamide | 25.9 mmol, 12.0 g | C(#N)C=1C=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C=C(C1)[N+](=O)[O-] | C19H12F7N3O3
reactant | tin chloride | 77.7 mmol, 14.73 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 5-amino-3-cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide | 10.6 g, 94.4% yield | NC=1C=C(C=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C1)C#N | C19H14F7N3O
